US04629683
Glutarimide (27 g) and a 35% formaldehyde solution (20 ml) were added to water (40 ml), and heated at about 100° C. for 1 hour over an oil bath. The water was completely distilled away from the reaction mixture using a rotary evaporator. Thus, a crude product of N-methylolglutarimide was obtained. This product was added to 200 ml of benzene without purification, and the resulting solution was heated together with phosphorus tribromide (7.5 ml) under reflux for 1 hour. Thereto, water was added and thereby the benzene layer was separated. The crude product obtained by distilling the benzene away from the benzene layer was recrystallized from an ethyl acetate/n-hexane mixture to yield about 25 g of the desired compound. Melting Point: 165° C.

reactant | Glutarimide | 27 g | C1(CCCC(N1)=O)=O | C5H7NO2
reactant | formaldehyde | 20 ml | C=O | CH2O
solvent | water | 40 ml | O | H2O
product | N-methylolglutarimide | C(O)N1C(CCCC1=O)=O | C6H9NO3
